US05580893
N-(2-Nitroxyethyl)-2-methoxyphenoxyacetamide (Exemplified compound No. 48)
Following a similar treatment to that in Example 2 and using 0.77 g of 2-methoxyphenoxyacetic acid and 0.60 g of nitroxyethylamine nitrate, 0.27 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 2-methoxyphenoxyacetic acid | 0.77 g | COC1=C(OCC(=O)O)C=CC=C1 | C9H10O4
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-methoxyphenoxyacetamide | 0.27 g | O([N+](=O)[O-])CCNC(COC1=C(C=CC=C1)OC)=O | C11H14N2O6
